US04803280
2-(1-Thioxoethyl)hydrazinecarboxylic acid, ethyl ester
A mixture of 110 g of 2-(1-thioxoethyl)thioglycolic acid, ethyl ester, 65.2 g of ethyl hydrazinocarboxylate and 500 ml of dichloromethane was heated at reflux for 3 hours, then concentrated in vacuo. The oily residue was concentrated further under high vacuum, giving a yellow oil. This oil was dissolved in 500 ml of dichloromethane and passed through a bed of hydrous magnesium silicate, washing with additional dichloromethane. The resulting light yellow oil was crystallized from diisopropyl ether giving a 79% yield of the desired compound as ivory crystals, mp 54.0°-57.5° C. Proton nuclear magnetic resonance (δ [ppm], CDCl3) 90 MHz: 1.30 (t, 3 H, J=7.4 Hz, CH3CH2); 2.55 (s, 3H, CH3CS); 4.25 (q, 2H, CH2CH3); 8.75 (bs, 1H, NH); 10.35 (bs, NH).

reactant | 2-(1-thioxoethyl)thioglycolic acid, ethyl ester | 110 g | S=C(C)C(C(=O)OCC)S | C6H10O2S2
reactant | ethyl hydrazinocarboxylate | 65.2 g | N(N)C(=O)OCC | C3H8N2O2
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-(1-Thioxoethyl)hydrazinecarboxylic acid, ethyl ester | 79% yield | S=C(C)NNC(=O)OCC | C5H10N2O2S
